2142-09-04 06:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mechanical AVR Endocarditis
   24 Hour Events:
   None
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2142-9-4**] 12:49 AM
   Ampicillin - [**2142-9-4**] 04:31 AM
   Infusions:
   Heparin Sodium - 2,350 units/hour
   Other ICU medications:
   Heparin Sodium - [**2142-9-3**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies SOB, CP, Dizziness, palpitations,; c/o left hip pain on the
   joint that is mildly tender to palpation but not to active and passive
   motion.
   Flowsheet Data as of  [**2142-9-4**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.5
   HR: 70 (60 - 82) bpm
   BP: 108/66(72) {85/50(59) - 122/70(80)} mmHg
   RR: 29 (15 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,462 mL
                                                                  1,378 mL
   PO:
                                                                    690 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    772 mL
                                                                    898 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    700 mL
   Urine:
                                                                    650 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    312 mL
                                                                    678 mL
   Respiratory support
   O2 Delivery Device: None/Room Air
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. [**Doctor Last Name **] Spot in left eye; Sclera anicteric. PERRL, EOMI.
   Conjunctiva were pink, no pallor or cyanosis of the oral mucosa. No
   xanthalesma.
   NECK: Supple with JVP at clavicle.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. Harsh [**5-14**] decrescendo systolic murmur heard best at the
   right sternal border and on the clavicle; radiating to carotids, apex,
   and back.  Mild, lift. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No edema; warm and dry
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 2+ PT 2+
   Left: DP: non-palpable (biphasic on Doppler) PT 1+
   Labs / Radiology
   243 K/uL
   10.3 g/dL
   103 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.4 mEq/L
   32 mg/dL
   103 mEq/L
   139 mEq/L
   29.9 %
   8.8 K/uL
        [image002.jpg]
                             [**2142-9-3**]  02:30 PM
   WBC
   8.8
   Hct
   29.9
   Plt
   243
   Cr
   1.2
   Glucose
   103
   Other labs: PT / PTT / INR:25.5/58.3/2.5, Differential-Neuts:85.1 %,
   Lymph:11.6 %, Mono:2.0 %, Eos:1.1 %, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.3 mg/dL
   CXR:  FINDINGS: Right internal jugular catheter terminates in proximal
   superior vena cava with no evidence of pneumothorax. There has been
   previous median sternotomy and aortic valve replacement. Aortic contour
   is unchanged compared to the previous radiograph of [**2140-3-10**].
   Heart remains enlarged, and
   there is a persistent area of nonspecific scarring adjacent to the left
   heart border. No pleural effusions are evident on this single
   projection. Incidental note is made of disruption of the lowest sternal
   wire.
   Head MRI: No evidence for aneurysm. Stable parenchymal atrophy in right
   parietal lobe.
   CT/CTA: Chest/Abdomen:
   1. Post-surgical changes with aortic graft and aortic valve prosthesis.
   2. Ascending aorta measures up to 5.9 cm in diameter.
   3. Cardiomegaly.
   4. Small left pleural effusion.
   5. Left basilar consolidation/atelectasis.
   6. Splenomegaly.
   7. Small amount of free fluid in the pelvis.
   8. No CT evidence for aortoenteric fistula
   CXR this AM: Pending
   Assessment and Plan
   28 yo with h/o aortic valvuloplasty, recurrent endocarditis, AVR x 2
   presenting with enterococcal bacteremia causing dehiscence of aortic
   valve replacement ring/right fibrous trigone, in the setting of
   profound hemolytic anemia secondary to valvular damage, that has now
   stabilized s/p 10 units PRBC.
   .
   #Endocarditis: Likely embolic phenomena to L foot and L eye and
   possible abscess in fibrous trigone. Patient with dental filling
   replacement in [**Month (only) 1563**], even though patient took antibiotics, he started
   to feel increasingly tired some time after this procedure. Since
   patient denies IVDU, it is likely the dental procedure is the source of
   his enterococcus bacteremia. He is currently hemodynamically stable,
   although he is complaining of numbness in left lower extremity.
   Avoiding gentamicin given Hx of ototoxicity.
   - ID Consulting and appreciate recs
   - Will continue Ceftriaxone and Ampicllin per ID recs
   - ESR/CRP
   - BCx pending
   - MRI/MRA of Brain to rule out acute event; full report pending
   - Contact [**Name (NI) **] from OSH to check on sterile placement of line.  If
   not sterile consider EJ.
   #Aortic Valve Replacement: Patient with dehiscent aortic valve in the
   right fibrous trigone, likely due to a lost stitch. Patient
   hemodynamicaly stable.
   -CT surgery following and appreciate recs.
   -Start Metoprolol 25 mg [**Hospital1 **] to keep HR < 70. Reducing sheer force.
   -Continue Heparin gtt
   -Hold carvidolol and warfarin
   -TTE today
   -CTA of Chest/CXR PA/Lateral; full report pending
   #Anemia: Most likely [**3-12**] hemolysis though ? whether pt. had some GI
   bleed as dyspnea got acutely worse, retic count at OSH was
   inappropriate to chronic process and INR was supratherpeutic.
   - CT aorta r/o aortoenteric fistula
   - retic count in am pending
   - Metoprolol to decrease shear stress
   - Tx Hct <21 as no Hx CAD
   # Suspected L foot embolic disease: Foot appears warm and well perfused
   currently. will monitor closely for signs of abscess.
   - LLE U/S pending
   - ABIs today with follow up with vascular.
   - Follow pulses
   CORONARIES: Cardiac Cath [**3-17**] showed clean coronaries. Patient did have
   a troponin leak of 0.37. This is likely secondary to demand ischemia
   secondary to profound anemia.
   -Will continue to monitor for signs of acute ischemia
   -Monitor Hct daily Transfuse <21 as no Hx CAD
   .
   #Hx of IVDU: Patient states he has not used IVDU since prior to his
   second surgery in [**2139**]. Patient on suboxone in outpatient
   -SW consult for support pending
   -Continue to monitor for signs of active heroin withdrawal
   - hepatitis C serology pending
   .
   # PUMP: Patient with h/o of CHF prior to AVR (SEVERE AI). Now, patient
   with no signs of fluid overload; EF on TTE in  [**2141-11-27**] (after AVR) was
   > 55% with normal filling pressures PCWP < 12.
   -Will continue to monitor
   .
   # RHYTHM: Patient currently in NSR.
   -Will continue to monitor on telemetry for signs of AV block
    # ACUTE RENAL FAILURE:  Patient with an increase of creatinine from
   baseline of 0.8. OSH peaked at 1.9, on presentation here, 1.2. Likely
   due to pre-renal etiology-> hypotensive state in OSH
kidney function
   improving
   -Will follow with BMP
   -Caution with renally cleared drugs
   ICU Care
   Nutrition:  Regular, Low sodium diet
   Glycemic Control: None
   Lines:
   Multi Lumen - [**2142-9-3**] 01:41 PM- Right IJ
   20 Gauge - [**2142-9-3**] 04:00 PM
   Prophylaxis:
   DVT:  Heparin gtt
   Stress ulcer:  Pantoprazole
   VAP:  not intubated
   Comments:
   Communication:  Comments: Patient and parents
   Father [**Telephone/Fax (1) 9797**] (HCP)
   Mother [**Telephone/Fax (1) 9798**]
   Code status: Full code
   Disposition: CCU for now, consider call out to floor in am
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks: This note is entered and signed on
   the day after the actual service was performed by me, due to computer
   lockout yesterday.  [**Known firstname 3987**] is stable.  He has aortic root abscess at
   the right fibrous trigone involving the confluence of the anterior
   mitral leaflet and posterior aortic root.  He has had embolic events
   but none recently so I think he is stable from that standpoint.  He
   does not have any large valvular vegetations, and aside freom mild
   paravalvular aortic regurgitation, no major hemodynamically
   compromising valve dysfunction (other than the hemolysis, obviously).
   He aslo has an anastamotic pseudoanerysm at the distal site of the
   aortic graft, which I also think is stable.
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name **] or health care proxy. Progress reviewed
   extensively during family meeting.
   DNR status discussed. Full code.
   Total time spent on patient care: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2142-9-5**]
   10:07 ------

2142-09-05 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Lower Extremity: Nl left femoral/popliteal. Severe left tibial
   disease. Greater in (100mmhg drop) dorsalis pedis than (16mmhg drop)
   posterior tibialis than left ABI: 0.68.
   - PICC placed and IJ pulled at [**2078**].
   - ID recommends surgery in 2 weeks (unofficial?).
   - Metoprolol increased to 37.5mg [**Hospital1 **].
   - Coumadin restarted at 5mg Daily, Heparin gtt stopped.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2142-9-5**] 12:00 AM
   Ampicillin - [**2142-9-5**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies SOB/CP/Dizziness/Left leg pain/Nausea/Diarrhea/Vision changes
   Flowsheet Data as of  [**2142-9-5**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 74 (65 - 86) bpm
   BP: 88/72(75) {87/47(53) - 119/85(89)} mmHg
   RR: 19 (16 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.5 kg (admission): 76.1 kg
   Height: 70 Inch
             Total In:
                                                                  3,942 mL
                                                                    555 mL
   PO:
                                                                  2,040 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,902 mL
                                                                    315 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    400 mL
   Urine:
                                                                  2,250 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,692 mL
                                                                    155 mL
   Respiratory support
   O2 Delivery Device: None/ Room Air
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. [**Doctor Last Name **] Spot in left eye; Sclera anicteric. PERRL, EOMI.
   Conjunctiva were pink, no pallor or cyanosis of the oral mucosa. No
   xanthalesma.
   NECK: Supple with JVP 2 cm from clavicle.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. Harsh [**5-14**] crescendo/decrescendo systolic murmur heard
   best at the right sternal border and on the clavicle; radiating to
   carotids, apex, and back.  Mild lift. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No edema; warm and dry
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 2+ PT 2+
   Left: DP: non-palpable (biphasic on Doppler) PT: biphasic on doppler
   Labs / Radiology
   230 K/uL
   9.0 g/dL
   159 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.3 mEq/L
   24 mg/dL
   104 mEq/L
   141 mEq/L
   26.4 %
   8.3 K/uL
        [image002.jpg] Lytes pending/ INR pending
                             [**2142-9-3**]  02:30 PM
                             [**2142-9-4**]  06:03 AM
   WBC
   8.8
   8.6
   Hct
   29.9
   29.8
   Plt
   243
   236
   Cr
   1.2
   1.2
   TropT
   0.38
   Glucose
   103
   159
   Other labs: PT / PTT / INR:24.5/31.5/2.3, CK / CKMB /
   Troponin-T:33/3/0.38, ALT / AST:[**1-29**], Alk Phos / T Bili:69/1.0,
   Differential-Neuts:85.1 %, Lymph:11.6 %, Mono:2.0 %, Eos:1.1 %,
   Albumin:3.1 g/dL, LDH:711 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.3
   mg/dL, CRP: 36.7, SED-Rate: 54, %HbA1c: 5.6
   - Hep C: Pending
   - MRI:.....
   - ECHO: (Summary) Compared with the prior study (images reviewed) of
   [**2141-11-27**], the septum is now hypokinetic. The aortic root
   abscess/dehiscence with associated paravalvular regurgitation is now
   present.
   - CXR: (Wet Read) PICC terminates in SVC, Cardiomegaly, no acute
   cardiopulmonary process.
   - Blood/Urine cultures pending
   - MRA: No evidence of aneurysms in the major intracranial arteries.
   However, MRA is not sensitive for small mycotic aneurysms, which may
   occur more peripherally. Head MRI with and without contrast may be
   useful if intracranial infection is suspected.
   - CT Chest/Abd/Pelvis: 1. Post-surgical changes with aortic graft and
   aortic valve prosthesis. 2. Ascending aorta measures up to 5.9 cm in
   diameter. 3. Cardiomegaly. 4. Small left pleural effusion. 5. Left
   basilar consolidation/atelectasis. 6. Splenomegaly. 7. Small amount of
   free fluid in the pelvis. 8. No CT evidence for aortoenteric fistula.
   Assessment and Plan
   28 yo with h/o aortic valvuloplasty, recurrent endocarditis, AVR x 2
   presenting with enterococcal bacteremia causing dehiscence of aortic
   valve replacement ring/right fibrous trigone, in the setting of
   profound hemolytic anemia secondary to valvular damage, that has now
   stabilized s/p 10 units PRBC.
   .
   #Endocarditis: Likely embolic phenomena to L foot and L eye Coronary
   artery and possible abscess in fibrous trigone. Patient with dental
   filling replacement in [**Month (only) 1563**], even though patient took antibiotics, he
   started to feel increasingly tired some time after this procedure.
   Since patient denies IVDU, it is likely the dental procedure is the
   source of his enterococcus bacteremia.
   ---He is currently hemodynamically stable. Avoiding gentamicin given Hx
   of ototoxicity. PICC placed yesterday.
   - ID Consulting and appreciate recs
   - Will continue Ceftriaxone and Ampicllin per ID recs (Day 2)
   - BCx/UCx pending
   - MRI of Brain to rule out acute event; full report pending
   - Panorex pending to assess for infectious process in mouth. Dental
   consult will be by today at 4pm.
   #Aortic Valve Replacement: Patient with dehiscent aortic valve in the
   right fibrous trigone, likely due to a lost stitch. Patient
   hemodynamicaly stable.
   - ID recs for time of surgery pending
   -CT surgery following and appreciate recs.
   -Continue Metoprolol 37.5 mg [**Hospital1 **] to keep HR < 70. Reducing sheer force.
   -Change Heparin gtt to coumadin 5 mg daily
   -Hold carvidolol and warfarin
   -TTE report shows a new wall motion abnormality. [**Month (only) 60**] consider CABG at
   the same time of replacement if coronaries are damaged
will need
   coronary cath
   #Anemia: Most likely [**3-12**] hemolysis though ? whether pt. had some GI
   bleed as dyspnea got acutely worse, retic count at OSH was
   inappropriate to chronic process and INR was supratherpeutic. CT aorta
   r/o aortoenteric fistula;
   --- Hct down from 29.8 to 26.4 today. Patient bled with PICC line
   placement and Retic count 3.1-> Retic index 1.5; ESR and CRP elevated;
   likely secondary to marrow suppression from an active inflammatory
   state
 cannot r/o hemolytic anemia as LDH was markedly elevated
   - Will check Hct again this evening.
   - Metoprolol to decrease shear stress
   - Tx Hct <25 as Hx CAD
   # L foot embolic disease: Foot appears warm and well perfused
   currently, although DP/PT pulses are decreased on left. ABI shows
   severe left tibial disease. Patient stable.
   - Vascular/Interventional following and appreciate recs
   - Will likely need an intervention, but timing will be addressed per
   consult as patient has concurrent active infectious process
   - Follow pulses [**Hospital1 **]
   CORONARIES: Cardiac Cath [**3-17**] showed clean coronaries. Patient did have
   a troponin I elevation of 0.37 in OSH. Patient with new wall motion
   abnormality on TTE
concerning for emoboli in the coronaries..
   - Consider Cath today vs. when patient presents again for surgery
   - Consider CABG at same time of AVR
will d/w CT surgery
   - Will continue to monitor for signs of acute ischemia
   - Monitor Hct daily Transfuse <21 as no Hx CAD
   .
   #Hx of IVDU: Patient states he has not used IVDU since prior to his
   second surgery in [**2139**]. Patient on suboxone in outpatient;
   -Will start suboxone (0.5 8mg/2mg) today; home dose is 0.5 tab TID
   -Will touch base with addiction to verify no titration needed to reach
   home dose.
   -SW consult for support pending
   -Continue to monitor for signs of active heroin withdrawal
   - hepatitis C serology pending
   .
   # PUMP: Patient with h/o of CHF prior to AVR (SEVERE AI). Now, patient
   with no signs of fluid overload; EF on TTE in  [**2141-11-27**] (after AVR) was
   > 55% with normal filling pressures PCWP < 12. New echo shows 1+ MR,
   (1+) paravalvular aortic regurgitation is seen. LVEF 50-55%.
   - Possible cath today
   - Will continue to monitor for signs of fluid overload
   .
   # RHYTHM: Patient currently in NSR.
   -Will continue to monitor on telemetry for signs of AV block
    # ACUTE RENAL FAILURE:  Patient with an increase of creatinine from
   baseline of 0.8. OSH peaked at 1.9, on presentation here, 1.2. Today Cr
   _____.  Improving. Likely due to pre-renal etiology-> hypotensive state
   in OSH
kidney function improving
   -Will follow with BMP
   -Caution with renally cleared drugs
   ICU Care
   Nutrition:  Regular, Low sodium diet
   Glycemic Control: None
   Lines: PICC line [**2142-9-4**]
   20 Gauge - [**2142-9-3**] 04:00 PM
   Prophylaxis:
   DVT:  Coumadin
   Stress ulcer:  Pantoprazole
   VAP:  not intubated
   Comments:
   Communication:  Comments: Patient and parents
   Father [**Telephone/Fax (1) 9797**] (HCP)
   Mother [**Telephone/Fax (1) 9798**]
   Code status: Full code
   Disposition: CCU for now, consider call out to floor in am

2142-09-05 09:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Lower Extremity: Nl left femoral/popliteal. Severe left tibial
   disease. Greater in (100mmhg drop) dorsalis pedis than (16mmhg drop)
   posterior tibialis than left ABI: 0.68.
   - PICC placed and IJ pulled at [**2078**].
   - ID recommends surgery in 2 weeks (unofficial?).
   - Metoprolol increased to 37.5mg [**Hospital1 **].
   - Coumadin restarted at 5mg Daily, Heparin gtt stopped.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2142-9-5**] 12:00 AM
   Ampicillin - [**2142-9-5**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies SOB/CP/Dizziness/Left leg pain/Nausea/Diarrhea/Vision changes
   Flowsheet Data as of  [**2142-9-5**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 74 (65 - 86) bpm
   BP: 88/72(75) {87/47(53) - 119/85(89)} mmHg
   RR: 19 (16 - 29) insp/min
   SpO2: 97% RA
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.5 kg (admission): 76.1 kg
   Height: 70 Inch
             Total In:
                                                                  3,942 mL
                                                                    555 mL
   PO:
                                                                  2,040 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,902 mL
                                                                    315 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    400 mL
   Urine:
                                                                  2,250 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,692 mL
                                                                    155 mL
   Respiratory support
   O2 Delivery Device: None/ Room Air
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. [**Doctor Last Name **] Spot in left eye; Sclera anicteric. PERRL, EOMI.
   Conjunctiva were pink, no pallor or cyanosis of the oral mucosa. No
   xanthalesma.
   NECK: Supple with JVP 2 cm from clavicle.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. Harsh [**5-14**] crescendo/decrescendo systolic murmur heard
   best at the right sternal border and on the clavicle; radiating to
   carotids, apex, and back.  Mild lift. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No edema; warm and dry
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 2+ PT 2+
   Left: DP: non-palpable (biphasic on Doppler) PT: biphasic on doppler
   Labs / Radiology
   230 K/uL
   9.0 g/dL
   90 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.3 mEq/L
   17 mg/dL
   103 mEq/L
   139 mEq/L
   26.4 %
   8.3 K/uL
        [image002.jpg]
                             [**2142-9-3**]  02:30 PM
                             [**2142-9-4**]  06:03 AM
   WBC
   8.8
   8.6
   Hct
   29.9
   29.8
   Plt
   243
   236
   Cr
   1.2
   1.2
   TropT
   0.38
   Glucose
   103
   159
   Other labs: PT / PTT / INR: (yesterday 24.5/31.5/2.3, today
   23.0/31.5/2.2), CK / CKMB / Troponin-T:33/3/0.38, ALT / AST:[**1-29**], Alk
   Phos / T Bili:69/1.0, Differential-Neuts:85.1 %, Lymph:11.6 %, Mono:2.0
   %, Eos:1.1 %, Albumin:3.1 g/dL, LDH:711 IU/L, Ca++:8.9 mg/dL, Mg++:1.9
   mg/dL, PO4:3.3 mg/dL, CRP: 36.7, SED-Rate: 54, %HbA1c: 5.6
   - Hep C: Pending
   - MRI: Read pending
   - ECHO: (Summary) Compared with the prior study (images reviewed) of
   [**2141-11-27**], the septum is now hypokinetic. The aortic root
   abscess/dehiscence with associated paravalvular regurgitation is now
   present.
   - CXR: (Wet Read) PICC terminates in SVC, Cardiomegaly, no acute
   cardiopulmonary process.
   - Blood/Urine cultures pending
   - MRA: No evidence of aneurysms in the major intracranial arteries.
   However, MRA is not sensitive for small mycotic aneurysms, which may
   occur more peripherally. Head MRI with and without contrast may be
   useful if intracranial infection is suspected.
   - CT Chest/Abd/Pelvis: 1. Post-surgical changes with aortic graft and
   aortic valve prosthesis. 2. Ascending aorta measures up to 5.9 cm in
   diameter. 3. Cardiomegaly. 4. Small left pleural effusion. 5. Left
   basilar consolidation/atelectasis. 6. Splenomegaly. 7. Small amount of
   free fluid in the pelvis. 8. No CT evidence for aortoenteric fistula.
   Assessment and Plan
   28 yo with h/o aortic valvuloplasty, recurrent endocarditis, AVR x 2
   presenting with enterococcal bacteremia causing dehiscence of aortic
   valve replacement ring/right fibrous trigone, in the setting of
   profound hemolytic anemia secondary to valvular damage, that has now
   stabilized s/p 10 units PRBC.
   .
   # Endocarditis: Likely embolic phenomena to L foot and L eye Coronary
   artery and possible abscess in fibrous trigone. Patient with dental
   filling replacement in [**Month (only) 1563**], even though patient took antibiotics, he
   started to feel increasingly tired some time after this procedure.
   Since patient denies IVDU, it is likely the dental procedure is the
   source of his enterococcus bacteremia.
   - He is currently hemodynamically stable. Avoiding gentamicin given Hx
   of ototoxicity. PICC placed yesterday.
   - ID Consulting and appreciate recs
   - Will continue Ceftriaxone and Ampicllin per ID recs (Day 2)
   - BCx/UCx pending
   - MRI of Brain to rule out acute event; full report pending
   - Panorex (dental films) pending to assess for infectious process in
   mouth. Dental consult will be by today at 4pm.
   - Surveillance TTE on Monday
   - Continue physical exam and lab data suspicious for septic emboli
   # Aortic Valve Replacement: Patient with dehiscent aortic valve in the
   right fibrous trigone, likely due to a lost stitch. Patient
   hemodynamicaly stable.
   - ID recs for time of surgery pending
   -CT surgery following and appreciate recs.
   -Increase Metoprolol to 50mg [**Hospital1 **] to keep HR < 70 in order to reduce
   sheer force.
   -Change Heparin gtt to coumadin 5 mg daily
 will continue this
   coumadin for a few days and then stop prior to surgery
   -Hold carvedilol
   -TTE report shows a new wall motion abnormality
 likely septic emboli
   to septal perforator branch that would be difficult to bypass
   -CT surgery may end up doing CABG at the same time as AVR, as currently
   coronaries are implanted into aortic graft
   # Anemia: Most likely [**3-12**] hemolysis though ? whether pt. had some GI
   bleed as dyspnea got acutely worse, retic count at OSH was
   inappropriate to chronic process and INR was supratherpeutic. CT aorta
   ruled out aortoenteric fistula.
   - Hct down from 29.8 to 26.4 today. Patient bled with PICC line
   placement and Retic count 3.1-> Retic index 1.5; ESR and CRP elevated;
   likely secondary to marrow suppression from an active inflammatory
   state or hemolytic anemia as LDH was markedly elevated.
   - Will check Hct again this evening.
   - Metoprolol to decrease shear stress.
   - Will transfuse for Hct <21
   # L foot embolic disease: Foot appears warm and well perfused
   currently, although DP/PT pulses are decreased on left. ABI shows
   severe left tibial disease. Patient stable.
   - Will get MRA of left foot today
   - Vascular/Interventional following and appreciate recs
   - Will likely need an intervention, but timing will be addressed per
   consult as patient has concurrent active infectious process
   - Follow pulses daily
   CORONARIES: Cardiac Cath [**3-17**] showed clean coronaries. Patient did have
   a troponin I elevation of 0.37 in OSH. Patient with new wall motion
   abnormality on TTE
concerning for emoboli in the coronaries..
   - Consider CABG at same time of AVR
will d/w CT surgery
   - Will continue to monitor for signs of acute ischemia
   - Monitor Hct daily Transfuse <21
   .
   #Hx of IVDU: Patient states he has not used IVDU since prior to his
   second surgery in [**2139**]. Patient on suboxone in outpatient;
   -Will start suboxone (0.5 8mg/2mg) today; home dose is 0.5 tab TID
   -Will touch base with addiction to verify no titration needed to reach
   home dose.
   -SW consult for support pending
   -Continue to monitor for signs of active heroin withdrawal
   - hepatitis C serology pending
   - Will also ask addiction about appropriate pain control
   post-operatively
   .
   # PUMP: Patient with h/o of CHF prior to AVR (SEVERE AI). Now, patient
   with no signs of fluid overload; EF on TTE in  [**2141-11-27**] (after AVR) was
   > 55% with normal filling pressures PCWP < 12. New echo shows 1+ MR,
   (1+) paravalvular aortic regurgitation is seen. LVEF 50-55%.
   - Will continue to monitor for signs of fluid overload
   .
   # RHYTHM: Patient currently in NSR.
   -Will continue to monitor on telemetry for signs of AV block
    # ACUTE RENAL FAILURE:  Patient with an increase of creatinine from
   baseline of 0.8. OSH peaked at 1.9, on presentation here, 1.2. Today Cr
   1.0 and continues to improve. Likely due to pre-renal etiology and
   hypotensive state in OSH.
   -Will follow with BMP
   -Caution with renally cleared drugs
   ICU Care
   Nutrition:  Regular, Low sodium diet
   Glycemic Control: None
   Lines: PICC line [**2142-9-4**], 20 Gauge - [**2142-9-3**] 04:00 PM
   Prophylaxis:
          DVT:  Coumadin
          Stress ulcer:  Pantoprazole
          VAP:  not intubated
   Communication:  Patient and parents
   Father [**Telephone/Fax (1) 9797**] (HCP)
   Mother [**Telephone/Fax (1) 9798**]
   Code status: Full code
   Disposition: CCU for now, consider call out to floor in am
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks: [**Known firstname 3987**] is clinically and
   hemodynamically stable.  He is receiving dual antibiotic therapy for
   his Enterococcal endocarditis.  His Hct is drifting down,
   unsurprisingly.  We have thoroughly reviewed his CT scans, MRI, MRA,
   TTE, and transthoracic echo with Dr [**Last Name (STitle) 5648**], and CCU and CT surgery
   teams.  Infectious Disease team indicating that a total of two weeks
   duration of antibiotics prior to surgery mauy be optimal, with plans to
   continue antibiotics both during and after surgery.  Therefore,
   anticipated surgery will likel;y occur next week, and we will keep
   [**Known firstname 3987**] in the hospital to recive his IV antibiotics. Transfer to [**Hospital Ward Name 790**]
   3 today.
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name **] or health care proxy. Progress reviewed
   extensively during family meeting.
   DNR status discussed. Full code.
   Total time spent on patient care: 60 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2142-9-5**]
   10:00 ------

2142-09-06 07:04:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   Chief Complaint: Endocarditis, awaiting AVR
   [**57**] Hour Events:
   - Talked to dental, who thought his Panorex films looked fine and
   doubted that the endocarditis was caused by a dentist
   - CT plans to take patient to surgery on Wednesday, [**9-12**]
   - ID recs- surgery within 15 days of presentation
   - Changed metoprolol to 50 mg [**Hospital1 **] today. BP's low again overnight
   (80's/40's) while sleeping, HR's in the 80's.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2142-9-6**] 12:22 AM
   Ampicillin - [**2142-9-6**] 04:08 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2142-9-5**] 04:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies CP/SOB/Dizziness/changes in vision/palpitations
   Flowsheet Data as of  [**2142-9-6**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 67 (67 - 90) bpm
   BP: 84/44(53) {78/43(50) - 117/71(79)} mmHg
   RR: 22 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.5 kg (admission): 76.1 kg
   Height: 70 Inch
             Total In:
                                                                  2,144 mL
                                                                    516 mL
   PO:
                                                                  1,320 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    824 mL
                                                                    316 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                    500 mL
   Urine:
                                                                  2,700 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -556 mL
                                                                     16 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. [**Doctor Last Name **] Spot in left eye resolving; Sclera anicteric. PERRL,
   EOMI. Conjunctiva were pink, no pallor or cyanosis of the oral mucosa.
   No xanthalesma.
   NECK: Supple with JVP 2 cm from clavicle.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. Harsh [**5-14**] crescendo/decrescendo systolic murmur heard
   best at the right sternal border on the clavicle; radiating to
   carotids, apex, and back.  Mild lift. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No edema; warm and dry
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 2+ PT 2+
   Left: DP: non-palpable (biphasic on Doppler) PT: 1+
   Labs / Radiology
   212 K/uL
   8.5 g/dL
   94 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.5 mEq/L
   16 mg/dL
   104 mEq/L
   137 mEq/L
   26.6 %
   8.3 K/uL
        [image002.jpg]
                             [**2142-9-3**]  02:30 PM
                             [**2142-9-4**]  06:03 AM
                             [**2142-9-5**]  05:57 AM
                             [**2142-9-5**]  08:59 PM
                             [**2142-9-6**]  04:57 AM
   WBC
   8.8
   8.6
   8.3
   8.3
   Hct
   29.9
   29.8
   26.4
   26.1
   26.6
   Plt
   243
   236
   230
   212
   Cr
   1.2
   1.2
   1.0
   0.9
   TropT
   0.38
   Glucose
   103
   159
   90
   94
   Other labs: PT / PTT / INR:24.2/34.3/2.3, CK / CKMB /
   Troponin-T:33/3/0.38, ALT / AST:[**1-29**], Alk Phos / T Bili:69/1.0,
   Differential-Neuts:85.1 %, Lymph:11.6 %, Mono:2.0 %, Eos:1.1 %,
   Albumin:3.1 g/dL, LDH:711 IU/L, Ca++:8.5 mg/dL, Mg++:1.6 mg/dL, PO4:2.9
   mg/dL
   - BCx pending
   - Hep C Ab neg
   - Head MRI report: 1. Interval development of small contrast-enhancing
   and hemorrhagic lesions along the cerebral hemispheres and left
   cerebellum, which may be cortical or leptomeningeal. Given the clinical
   setting, they are consistent with septic emboli. 2. Interval increase
   in chronic infacts and chronic microhemorrhages, likely due to
   recurrent emboli in the setting of AVR.
   - MR Angiogram of left leg prelim read:
   RIGHT: ILIAC,SFA,[**Doctor Last Name **], AT, DP NORMAL. FILLING DEFECT IN RIGHT PROFUNDA
   BRANCH. RIGHT PT OCCLUDED AT MEDIAL MALEOLUS. RIGHT PERONEAL NOT SEEN
   FROM MID CALF LEFT: ILIAC, SFA PATENT.
   LEFT PROX [**2-9**] OF POST TIB OCCLUDED. LEFT DISTAL AT OCCLUDED. LEFT DP
   PATENT. LEFT PT INCOMPLETELY OCCLUDED AT MEDIAL MALEOLUS. LEFT PERONEAL
   PROXIMALLY OCCLUDED, RECONSTITUTES MID CALF.
   EKG: TWI V2/V3, ST depressions in V2-V6, RBBB
   Assessment and Plan
   28 yo with h/o aortic valvuloplasty, recurrent endocarditis, AVR x 2
   presenting with enterococcal bacteremia causing dehiscence of aortic
   valve replacement ring/right fibrous trigone, in the setting of
   profound hemolytic anemia secondary to valvular damage, that has now
   stabilized s/p 10 units PRBC. Clinically stable.
   .
   # Endocarditis: Likely embolic phenomena to L foot, L eye, coronary
   artery, possible abscess in fibrous trigone, cerebral hemispheres, and
   left cerebellum. Patient with dental filling replacement in [**Month (only) 1563**], even
   though patient took antibiotics, he started to feel increasingly tired
   some time after this procedure. Since patient denies IVDU, it is likely
   the dental procedure is the source of his enterococcus bacteremia.
   - He is currently hemodynamically stable. Avoiding gentamicin given Hx
   of ototoxicity.
   - ID Consulting and appreciate recs
   - Will continue Ceftriaxone (Day 3) and Ampicllin (Day 3 at [**Hospital1 54**]) per
   ID recs; given per PICC
   - BCx/UCx pending
   - Panorex (dental films) negative for infectious process in mouth.
   - Continue physical exam and lab data suspicious for septic emboli
   - Surveillance TTE on Monday
   # Aortic Valve Replacement: Patient with dehiscent aortic valve in the
   right fibrous trigone, likely due to a lost stitch. Patient
   hemodynamicaly stable.
   - ID recs for time of surgery: prefer to be within 15 days of patient
   presentation
   -CT surgery following and appreciate recs. Surgery Date pending
   -Continue Metoprolol to 50mg [**Hospital1 **] to keep HR < 70 in order to reduce
   sheer force.
   -Continue coumadin 5 mg daily
 will continue coumadin for a few days
   and then stop prior to surgery
   -Hold carvedilol
   -TTE report shows a new wall motion abnormality
 likely septic emboli
   to septal perforator branch that would be difficult to bypass
   -CT surgery may end up doing CABG at the same time as AVR, as currently
   coronaries are implanted into aortic graft
   # Anemia: Most likely [**3-12**] hemolysis though ? whether pt. had some GI
   bleed as dyspnea got acutely worse, retic count at OSH was
   inappropriate to chronic process and INR was supratherpeutic. CT aorta
   ruled out aortoenteric fistula. Anemia likely due to patient bleed with
   PICC line placement and Retic count 3.1-> Retic index 1.5; ESR and CRP
   elevated; likely secondary to marrow suppression from an active
   inflammatory state or hemolytic anemia as LDH was markedly elevated
   - Hct stable at 26.6 today. Hemolytic anemia with marrow suppression
   secondary to infectious state is likely cause.
   - Will check Hct again daily.
   - Metoprolol to decrease shear stress.
   - Will transfuse for Hct <21
   # L foot embolic disease: Foot appears warm and well perfused
   currently, although DP/PT pulses are decreased on left. ABI shows
   severe left tibial disease. Patient stable.
   - MRA of left foot shows occlusive arteries
   - Vascular/Interventional following and appreciate recs
   - Will likely need an intervention, but timing will be addressed per
   consult as patient has concurrent active infectious process
   - Follow pulses daily
   CORONARIES: Cardiac Cath [**3-17**] showed clean coronaries. Patient did have
   a troponin I elevation of 0.37 in OSH. Patient with new wall motion
   abnormality on TTE
concerning for emoboli in the coronaries..
   - Consider CABG at same time of AVR
will d/w CT surgery
   - Will continue to monitor for signs of acute ischemia
   - Monitor Hct daily Transfuse <21
   .
   #Hx of IVDU: Patient states he has not used IVDU since prior to his
   second surgery in [**2139**]. Patient on suboxone in outpatient;
   -Will start suboxone (0.5 8mg/2mg) today; home dose is 0.5 tab TID;
   currently [**Hospital1 **] dosing.
   -[**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2446**] will come by today to help with management of subxone
   and guidelines regarding pain management in the post-op period
   -Continue to monitor for signs of active heroin withdrawal
   - hepatitis C serology negative
   .
   # PUMP: Patient with h/o of CHF prior to AVR (SEVERE AI). Now, patient
   with no signs of fluid overload; EF on TTE in  [**2141-11-27**] (after AVR) was
   > 55% with normal filling pressures PCWP < 12. New echo shows 1+ MR,
   (1+) paravalvular aortic regurgitation is seen. LVEF 50-55%.
   - Will continue to monitor for signs of fluid overload
   .
   # RHYTHM: Patient currently in NSR.
   -Will continue to monitor on telemetry for signs of AV block
    # ACUTE RENAL FAILURE:  baseline of 0.8. OSH peaked at 1.9, today is
   0.9. Likely due to pre-renal etiology and hypotensive state in OSH.
   Essentially resolved.
   -Will follow with morning BMP
   ICU Care
   Nutrition:  Regular diet
   Glycemic Control: None
   Lines: PICC line [**2142-9-4**], 20 Gauge - [**2142-9-3**] 04:00 PM
   Prophylaxis:
          DVT:  Coumadin
          Stress ulcer:  Pantoprazole
          VAP:  not intubated
   Communication:  Patient and parents
   Father [**Telephone/Fax (1) 9797**] (HCP)
   Mother [**Telephone/Fax (1) 9798**]
   Code status: Full code
   Disposition: Call out to [**Hospital Ward Name 790**] 3 pending